US07659263B2
To a solution of methyl 2-chloro-5-methanesulfonylbenzoate (23.4 g, 94 mmol) in toluene (250 ml) were added morpholine (9.8 ml, 113 mmol), cesium carbonate (40 g, 122 mmol), palladium acetate (380 mg, 1.4 mmol) and 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (1.06 g, 1.7 mmol). After stirring overnight with heating under reflux, ethyl acetate (250 ml) was added. The organic layer was washed successively with water (200 ml×2) and saturated brine (200 ml), and dried over magnesium sulfate. Filtration and concentration gave methyl 5-methanesulfonyl-2-(morpholin-4-yl)benzoate as a crude product. The obtained compound was used for Step 4 without further purification.

reactant | methyl 2-chloro-5-methanesulfonylbenzoate | 94 mmol, 23.4 g | ClC1=C(C(=O)OC)C=C(C=C1)S(=O)(=O)C | C9H9ClO4S
reactant | morpholine | 113 mmol, 9.8 ml | N1CCOCC1 | C4H9NO
reactant | cesium carbonate | 122 mmol, 40 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 1.7 mmol, 1.06 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 1.4 mmol, 380 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | methyl 5-methanesulfonyl-2-(morpholin-4-yl)benzoate | CS(=O)(=O)C=1C=CC(=C(C(=O)OC)C1)N1CCOCC1 | C13H17NO5S
